US06730792B2
A mixture of 2-(pyrazol-5-yl)phenol (Catalan, et al., J. Am. Chem. Soc., 114(13):5039-48, 1992, 10 mmol, 1.60 g), triethylamine (40.0 mmol, 5.6 ml), and acetonitrile (55 ml) is cooled in an ice bath under N2 and treated dropwise with chlorotrimethylsilane (12.0 mmol, 1.52 ml). After the addition is complete, the cold bath is removed and the reaction mixture stirred at ambient temperature for 1 hour. The reaction mixture is then treated with trityl chloride (10.0 mmol, 2.78 g) and stirred at ambient temperature overnight, followed by refluxing for 1 hour. The reaction mixture is concentrated, treated with saturated aqueous sodium bicarbonate, and extracted with ethyl acetate (3×50 ml). The extracts are dried over magnesium sulfate and concentrated to a viscous oil. The oil is crystallized from 20% ethyl acetate/hexane to give 1.72 g of N-trityl-2-(pyrazol-5-yl)phenol.

reactant | 2-(pyrazol-5-yl)phenol | 10 mmol, 1.60 g | N1N=CC=C1C1=C(C=CC=C1)O | C9H8N2O
reactant | triethylamine | 40.0 mmol, 5.6 ml | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 12.0 mmol, 1.52 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | trityl chloride | 10.0 mmol, 2.78 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | acetonitrile | 55 ml | C(C)#N | C2H3N
product | N-trityl-2-(pyrazol-5-yl)phenol | 1.72 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=CC=C1C1=C(C=CC=C1)O | C28H22N2O
